US09422282B2
Synthesis of 5-Benzyloxy-6-[5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-3-methyl-3H-pyrimidine-4-thione
5-Benzyloxy-6-[5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-3-methyl-3H-pyrimidin-4-one was treated with 0.62 equiv of Lawesson's reagent at 80-85° C. in toluene for 5-7 h. TLC showed one major product formation with some substrate still present. Chromatography (eluted with 70%-90% EtOAc/hexane) gave ˜50% yield of the title compound.

reactant | 5-Benzyloxy-6-[5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-3-methyl-3H-pyrimidin-4-one | C(C1=CC=CC=C1)OC=1C(N(C=NC1C=1OC(=NN1)CC1=CC=C(C=C1)F)C)=O | C21H17FN4O3
reactant | Lawesson's reagent | 0.62 equiv | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Benzyloxy-6-[5-(4-fluoro-benzyl)-[1,3,4]oxadiazol-2-yl]-3-methyl-3H-pyrimidine-4-thione | ˜50% yield | C(C1=CC=CC=C1)OC=1C(N(C=NC1C=1OC(=NN1)CC1=CC=C(C=C1)F)C)=S | C21H17FN4O2S
